US09029391B2
(S)-2-(tert-butoxy)-2-(4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetic acid
A solution of 3-{(1S)-1-[(1,1-dimethylethyl)oxy]-2-hydroxyethyl}-4-(3,4-dimethylphenyl)-2-methyl-1(2H)-isoquinolinone (4 mg, 10.54 μmol) in DMSO is treated with DMP (13 mg, 0.032 mmol). After 18 h, the reaction mixture was filtered through a pad of silica gel and washed with 1:1 EtOAc-hexanes. The filtrate was concentrated, dissolved in EtOAc and washed with H2O (3×), brine, dried (Na2SO4), filtered and concentrated. The residue was then dissolved in tert-Butanol (51.5 μl) and Tetrahydrofuran (THF) (51 μl) and treated with 2,3-dimethyl-2-butene (3 μl, 0.02 mmol) and a solution of NaClO2 (1.787 mg, 0.016 mmol) and NaH2PO4 (1.2 mg, 10.5 μmol) in water (100 uL). The crude reaction mixture was diluted with water and extracted with EtOAc (3×). The combined organics were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was dissolved in DMF (250 uL) and purified by Gilson to afford the title compound: Rt=0.95, 0.97 (atropisomers), ES+ MS: 394 (M+1). The chirality of the above compound was established by comparison to authentic material of (R)- and (S)-(tert-butoxy)-2-(4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetic acid using a Chiral SFC 20% MeOH/80% CO2; 4.6×250 mm IC column; Rt (R)=1 min; (S)=7.22 min.

reactant | 3-{(1S)-1-[(1,1-dimethylethyl)oxy]-2-hydroxyethyl}-4-(3,4-dimethylphenyl)-2-methyl-1(2H)-isoquinolinone | 10.54 μmol, 4 mg | CC(C)(C)O[C@H](CO)C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C=C1)C)C)=O)C | C24H29NO3
reactant | Tetrahydrofuran | 51 μl | O1CCCC1 | C4H8O
reactant | 2,3-dimethyl-2-butene | 0.02 mmol, 3 μl | CC(C)=C(C)C | C6H12
reactant | NaClO2 | 0.016 mmol, 1.787 mg | [O-]Cl=O.[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | 100 uL | O | H2O
product | (S)-2-(tert-butoxy)-2-(4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetic acid | C(C)(C)(C)O[C@H](C(=O)O)C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C=C1)C)C)=O)C | C24H27NO4
